US04289886
To a stirred solution at 50° C. containing 86 g (0.5 mol) of 2-mercaptobenzothiazole, 60.8 g (0.6 mol) of triethylamine and 500 ml of water, 43 g (0.6 mol) of acrylamide was added in one portion. After stirring at 60°-70° C. for 24 hours, the stirred reaction mixture was cooled to 25° C., the solid collected by filtration, washed with water until neutral and air-dried at 50° C. The product, 2-thioxo-3(2H)-benzothiazolepropanamide, mp 226°-227° C. was obtained in 77% yield.

reactant | 2-mercaptobenzothiazole | 0.5 mol, 86 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | triethylamine | 0.6 mol, 60.8 g | C(C)N(CC)CC | C6H15N
reactant | acrylamide | 0.6 mol, 43 g | C(C=C)(=O)N | C3H5NO
solvent | water | 500 ml | O | H2O
product | 2-thioxo-3(2H)-benzothiazolepropanamide | 77% yield | S=C1SC2=C(N1CCC(=O)N)C=CC=C2 | C10H10N2OS2
